US06451740B2
Into a boron trifluoride methanol complex, methanol solution is added ethyl [2-(5-acetylamino-2-chloro-4-fluorophenoxy)phenoxy]acetate, and the mixture is heated while stirring. Thereafter, the reaction solution is concentrated, the residue is dissolved in ethyl acetate, and washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, and concentrated to obtain ethyl [2-(5-amino-2-chloro-4-fluorophenoxy)phenoxy]acetate [Intermediate compound A3-23].

reactant | ethyl [2-(5-acetylamino-2-chloro-4-fluorophenoxy)phenoxy]acetate | C(C)(=O)NC=1C(=CC(=C(OC2=C(OCC(=O)OCC)C=CC=C2)C1)Cl)F | C18H17ClFNO5
solvent | methanol | CO | CH4O
product | ethyl [2-(5-amino-2-chloro-4-fluorophenoxy)phenoxy]acetate | NC=1C(=CC(=C(OC2=C(OCC(=O)OCC)C=CC=C2)C1)Cl)F | C16H15ClFNO4
